Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Brisk Upper GI Bleed during ERCP procedure
 
Major Surgical or Invasive Procedure:
ERCP axial stent placement 
 
History of Present Illness:
Mr. ___ is a ___ male with PMH of severe 
familial hypertriglyceridemia (requiring plasmapheresis for 
pancreatitis in the past) w/ pancreatic pseudocyst s/p ERCP 
axial stent placement between stomach and cyst who had brisk 
UGIB during ERCP procedure.

He came as an outpatient to ___ today, where they placed an 
axial stent between his pancreatic pseudocyst and the stomach. 
They placed a plastic stent and then dilated and subsequently 
saw active, pulsatile bleeding from the wall of the stomach. 
Attempted to inject epi without significant response and aborted 
procedure. He was transferred to PACU and CTA was performed. 
Subsequently went to ___ for embolization of bleeding vessel.

In ___, he had transient hypotension with SBPs in ___ and 
required pressors briefly. By the time they begun the procedure, 
he was off pressors and doing ___. There was no active bleeding 
visualized, but they observed that a branch of the L gastric 
artery ran near the newly placed stent. The L gastric artery was 
prophylactically embolized. No blood loss during procedure and 
no blood was given ___. From ___, he was 
transferred to the FICU for further management.

 
Past Medical History:
Presumed familial hypertriglyceridemia (followed by Dr. ___ 
___ at cardiology ___)
Recurrent acute pancreatitis due to hypertriglyceridemia and 
alcohol (followed by Dr. ___ at ___)
Splenic vein thrombosis 
Pancreatic pseudocyst
DM (possibly from pancreatic insufficiency)
 
Social History:
___
Family History:
Gallbladder problems, hypertension
 
Physical Exam:
ADMISSION EXAM:
==============================
VITALS:  T: 96.5, HR: 53, BP 87/50, RR 16, SpO2 100% on 
ventilator 
GENERAL:  ___ developed male in NAD. Intubated and sedated.
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Tender to palpation diffusely. soft, non-tender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, ___ perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  No rashes, ecchymosis, cyanosis
NEURO:  Grossly intact, AAOx3
ACCESS:  PIVs

discharge

VITALS: avss
aox3
___ appearing
soft non tender non distended abdomen
 
Pertinent Results:
ADMISSION LABS:
=========================
___ 02:45PM BLOOD WBC-12.3* RBC-4.88 Hgb-14.4 Hct-42.6 
MCV-87 MCH-29.5 MCHC-33.8 RDW-13.2 RDWSD-42.3 Plt ___
___ 02:45PM BLOOD ___ PTT-24.7* ___
___ 11:10PM BLOOD ___ 05:52PM BLOOD Glucose-202* UreaN-19 Creat-0.8 Na-136 
K-3.8 Cl-100 HCO3-28 AnGap-8*
___ 05:52PM BLOOD ALT-12 AST-11 AlkPhos-37* TotBili-0.3
___ 05:52PM BLOOD Calcium-8.5 Phos-3.3 Mg-1.7
___ 05:52PM BLOOD Triglyc-274*
___ 06:09PM BLOOD ___ Temp-36.2 pO2-44* pCO2-52* 
pH-7.34* calTCO2-29 Base XS-0
___ 07:50PM BLOOD Glucose-140* Lactate-1.0 Na-139 K-3.3 
Cl-106
___ 07:50PM BLOOD Hgb-11.4* calcHCT-34 O2 Sat-98
___ 07:50PM BLOOD freeCa-0.97*

IMAGING:
========================
CTA A/P
1. Status post pancreatic cystogastrostomy with significant 
interval drainage of peripancreatic cyst.  Areas of contrast 
blush within the pancreatic body concerning for active bleeding 
though the source vessel is not identified. Additional areas of 
hyperdense material within the stomach also concerning for acute 
hemorrhagic material. 
2. Bandlike hypodensity within the inferior right hepatic lobe 
likely 
represents focal fatty deposition, though more conspicuous than 
on prior.  
Attention on followup advised. 
3. Splenomegaly, with chronic splenic vein thrombosis with 
perisplenic varices and splenic infarcts. 
4. Consolidation in the lower lungs likely atelectasis, though 
likely 
complicated with a component of aspiration in the left lower 
lobe. 

MESENTERIC ARTERIOGRAM 
Successful Gel-Foam embolization of a branch of the left gastric 
artery 
coursing near thecystogastrostomy stent. No active extravasation 
was 
identified pre or post embolization. 

___ 05:15AM BLOOD WBC-5.8 RBC-3.95* Hgb-11.8* Hct-34.2* 
MCV-87 MCH-29.9 MCHC-34.5 RDW-12.9 RDWSD-40.4 Plt Ct-97*
___ 05:15AM BLOOD Plt Ct-97*
___ 05:15AM BLOOD Glucose-126* UreaN-12 Creat-0.8 Na-144 
K-3.8 Cl-106 HCO3-24 AnGap-14
___ 04:18AM BLOOD ALT-12 AST-11 AlkPhos-39* TotBili-0.3
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of severe 
familial hypertriglyceridemia (requiring plasmapheresis for 
pancreatitis in the past) w/ pancreatic pseudocyst who presented 
initially for elective ERCP axial stent placement between 
stomach and cyst to drain pancreatic pseudocyst with procedural 
course complicated by acute arterial UGIB 
   
He came as an outpatient to ERCP on ___, where ERCP performed 
an axial stent between his pancreatic pseudocyst and the 
stomach. Following plastic stent deployment and dilatation, 
there was subsequently active, pulsatile bleeding from the wall 
of the stomach. Attempted to inject the bleeding vessel with epi 
without significant response and aborted procedure. He was 
transferred to PACU and CTA was performed. CTA did not show 
active bleeding but because of arterial pulsatile bleeding ___ 
was pursued. ___ found gastric artery passing closely to stent 
but without blush so embolized the gastric artery empirically. 
   
While in ___, he had transient hypotension with SBPs in ___ and 
required pressors briefly. By the time they begun the procedure, 
he was off pressors and doing ___. There was no active bleeding 
visualized, but they observed that a branch of the L gastric 
artery ran near the newly placed stent. The L gastric artery was 
prophylactically embolized. No blood loss during procedure and 
no blood was given ___. From ___, he was 
transferred to the ___ for further management.
 
Intubated in ERCP suite then when to ___, then presented to ___ 
intubated around 8pm ___ evening. Weaned off pressors 
immediately, and extubated the morning of transfer ___. Did not 
receive any pRBCs. Did receive 1 L IVFs. During the day ___ he 
had 2 episodes of large volume dark clotted hematemesis and with 
stable hemodynamics. ERCP evaluated and felt it was old blood in 
the stomach or blood being evacuated from the pseudocyst. 
Following those 2 episodes, no issues occurred during the day, 
started eating and drinking by the afternoon. 

He was transferred to ___ on ___ from the ICU and further 
monitored. Cipro/Flagyl for 5 days started on ___, and the 
plan is PO BID PPI for 3 weeks until repeat CT in 3 weeks. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fenofibrate 145 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Gabapentin 400 mg PO QHS 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*4 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*6 Tablet Refills:*0 
3.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
4.  Fenofibrate 145 mg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Gabapentin 400 mg PO QHS  
7.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pancreatitis
acute arterial upper gi bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were hospitalized for drainage of pancreatic pseudocyst as 
___ as acute gi bleeding requiring embolization with ___. you 
became anemic.

we are treating you with oral proton pump inhibitor which is an 
antiacid and we are giving you two days of antibiotics.

you should have repeat ct scan with contrast repeated in 3 weeks 
ordered by your gi physician, ___

___ repeat blood work, cbc with your pcp, mention that you had 
somewhat low platelets of 145 on admission to the hospital.
 
Followup Instructions:
___